US07402680B2
1-Benzyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (0.23 g) was prepared from 0.50 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 274 μL of benzylamine, and 0.55 g of 1-trifluoromethyl-4-(2-nitro-vinyl)-benzene, using acetonitrile as the solvent. MS (ESI): exact mass calculated for C21H19F3N2, 356.16; m/z found, 357.2 [M+H]+.

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | benzylamine | 274 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | 1-trifluoromethyl-4-(2-nitro-vinyl)-benzene | 0.55 g | FC(C1=CC=C(C=C1)C=C[N+](=O)[O-])(F)F | C9H6F3NO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-Benzyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 0.23 g | C(C1=CC=CC=C1)N1C=C(C=2CNCCC21)C2=CC=C(C=C2)C(F)(F)F | C21H19F3N2
